US08877975B2
N,N-dimethyl(1-phenylcyclohexyl)methanamine hydrochloride (86)
The title compound was synthesized from N,N-dimethyl-1-phenylcyclohexanecarboxamide (200 mg, 0.87 mmol) using General Procedure E, followed by HCl salt formation. The crude HCl salt was rechrystallized from 2:1 EtOAc:CH3CN to give N,N-dimethyl(1-phenylcyclohexyl)methanamine hydrochloride as an analytically pure off-white solid (8 mg, 4%). HPLC Rt=8.55 min; 1H NMR (400 mHz, MeOH-d4) 7.30 (q, 4H), 2.30 (s, 2H), 2.09-2.06 (m, 2H), 1.97 (s, 6H), 1.60-1.25 (m, 10H); LC-MS 8.09 min, (M+1)+ 252 @ 8.15 min. HPLC Rt=8.03 min; 1H NMR (400 mHz, MeOH-d4) 7.48-7.39 (m, 4H), 7.29-7.28 (m, 1H), 3.34 (d, J=2.57 Hz, 2H), 2.46 (d, J=3.30 Hz, 6H), 2.29-2.26 (m, 2H), 1.67-1.39 (m, 8H); LC-MS 6.62 min, (M+1)+ 218 @ 6.80 min.

reactant | N,N-dimethyl-1-phenylcyclohexanecarboxamide | 0.87 mmol, 200 mg | CN(C(=O)C1(CCCCC1)C1=CC=CC=C1)C | C15H21NO
reactant | HCl | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | CC#N | C2H3N
product | N,N-dimethyl(1-phenylcyclohexyl)methanamine hydrochloride | Cl.CN(CC1(CCCCC1)C1=CC=CC=C1)C | InChI=1S/C15H23N.ClH/c1-16(2)13-15(11-7-4-8-12-15)14-9-5-3-6-10-14;/h3,5-6,9-10H,4,7-8,11-13H2,1-2H3;1H
